US06716851B2
4-[3-(2,3,4,5,6-Pentafluorophenoxy)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3-(2,3,4,5,6-pentafluorophenoxy)aniline (106 mg, 0.386 mmol) similar to Example 58 and isolated as a yellow solid (65 mg, 68%). 1H NMR (DMSO-d6): 10.46 (s, 1H), 9.24 (s, 1H), 8.75 (dd, J=1.8, 4.8 Hz, 1H), 8.56-8.52 (m, 1H), 7.77 (s, 1H), 7.59-7.55 (m, 1H), 7.50-7.41 (m, 2H), 7.14 (s, 1H), 6.94-6.92 (m, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3-(2,3,4,5,6-pentafluorophenoxy)aniline | 0.386 mmol, 106 mg | FC1=C(OC=2C=C(N)C=CC2)C(=C(C(=C1F)F)F)F | C12H6F5NO
product | 4-[3-(2,3,4,5,6-Pentafluorophenoxy)anilino]-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | FC1=C(OC=2C=C(NC3=NC(=NC(=C3)C(F)(F)F)C=3C=NC=CC3)C=CC2)C(=C(C(=C1F)F)F)F | C22H10F8N4O
